US07863291B2
5-(Difluoromethoxy)thiazolo[5,4-b]pyridin-2-amine (310 mg, 1.43 mmol) and di(1H-imidazol-1-yl)methanethione (311 mg, 1.75 mmol) were dissolved in acetonitrile (5 mL) and heated to 70° C. in a sealed vial for 10 hours. The vial was then stored in the freezer for 16 hours. The solids were collected by filtration and washed with acetonitrile to afford N-(5-(difluoromethoxy)thiazolo[5,4-b]pyridin-2-yl)-1H-imidazole-1-carbothioamide (296 mg, 0.72 mmol, 51% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.77 (d, J=4.77 Hz, 1 H), 8.06 (d, J=8.53 Hz, 1 H), 8.01 (s, 1H), 7.72 (s, 1 H), 7.54 (s, 1 H), 6.94-7.13 (m, 1 H).

reactant | 5-(Difluoromethoxy)thiazolo[5,4-b]pyridin-2-amine | 1.43 mmol, 310 mg | FC(OC1=CC=C2C(=N1)SC(=N2)N)F | C7H5F2N3OS
reactant | di(1H-imidazol-1-yl)methanethione | 1.75 mmol, 311 mg | N1(C=NC=C1)C(=S)N1C=NC=C1 | C7H6N4S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(5-(difluoromethoxy)thiazolo[5,4-b]pyridin-2-yl)-1H-imidazole-1-carbothioamide | 0.72 mmol, 296 mg, 51% yield | FC(OC1=CC=C2C(=N1)SC(=N2)NC(=S)N2C=NC=C2)F | C11H7F2N5OS2
